US09060517B2
0.07 g of 3-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-3-methyl-butan-2-ol were dissolved in 3 ml of dichloromethane. 0.27 g of Dess-Martin reagent were added thereto at 0° C. followed by stirring for 30 minutes. Subsequently, the reaction solution was concentrated followed by purifying by silica gel column chromatography to obtain 0.04 g of 3-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-3-methyl-butan-2-one.

reactant | 3-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-3-methyl-butan-2-ol | 0.07 g | FC=1C=CC=C2C=C(C=NC12)OC=1C(=NC=CC1)C(C(C)O)(C)C | C19H19FN2O2
reactant | Dess-Martin reagent | 0.27 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 3-[3-(8-fluoro-quinolin-3-yloxy)-pyridin-2-yl]-3-methyl-butan-2-one | 0.04 g | FC=1C=CC=C2C=C(C=NC12)OC=1C(=NC=CC1)C(C(C)=O)(C)C | C19H17FN2O2
